US04184867
(a) Preparation of 4-(isopropylthio)-3-nitroaniline
To a stirred solution containing 34.5 g (0.20 mole) of 4-chloro-3-nitroaniline and 24 g (0.30 mole) of isopropyl mercaptan in 200 ml of DMSO was added dropwise at ambient temperature a solution of 8.0 g (0.20 mole) of sodium hydroxide in 10 ml of water. The addition was exothermic to 60° and the mixture became deep red in color. After three days, the reaction mixture was poured into water and extracted with methylene chloride. The combined extracts were washed with water, dried with anhydrous MgSO4, filtered and concentrated to give 41.1 g (97%) of product as a red-brown syrup.

reactant | 4-chloro-3-nitroaniline | 0.20 mole, 34.5 g | ClC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | isopropyl mercaptan | 0.30 mole, 24 g | C(C)(C)S | C3H8S
reactant | sodium hydroxide | 0.20 mole, 8.0 g | [OH-].[Na+]
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
solvent | water | 10 ml | O | H2O
product | 4-(isopropylthio)-3-nitroaniline | 41.1 g, 97% | C(C)(C)SC1=C(C=C(N)C=C1)[N+](=O)[O-] | C9H12N2O2S
